US06949552B2
0.80 g of the optically active form of 2-(4-fluorophenyl)oxirane was dissolved in ethanol, and 3.2 g of 1-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine was added, followed by reflux with heating or 2 hours. The reaction solution was cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in chloroform and washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Chromatorex NH, hexane:ethyl acetate=2:1) to give 1.2 g of optically active 1-[2-hydroxy-2-(4-fluorophenyl)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin as a solid.

reactant | 2-(4-fluorophenyl)oxirane | FC1=CC=C(C=C1)C1OC1 | C8H7FO
reactant | 1-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine | 3.2 g | COC1=C(C2=CC=CC=C2C=C1)CCCCN1CCNCC1 | C19H26N2O
solvent | ethanol | C(C)O | C2H6O
product | 1-[2-hydroxy-2-(4-fluorophenyl)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin | OC(CN1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)C1=CC=C(C=C1)F | C27H33FN2O2
